US05389641
22b) 1-(2-Chloro-4-methylphenyl)pyrrole-2-carboaldehyde
To ice-cooled DMF (4.0 g) was added phosphorous oxychloride (8.4 g) dropwise and the mixture was stirred at room temperature for 15 minutes. To the stirred reaction mixture was added a solution of 1-(2-chloro-4-methylphenyl)pyrrole (9.7 g) in DMF (8 ml) dropwise and the mixture was stirred at 50° C. for 1.5 hours followed by addition of ice-water. Stirring was continued for a while and then the mixture was made basic with potassium carbonate, and extracted with ethyl acetate. The extract was washed with water, dried and evaporated. The residue was purified by column chromatography on silica gel to give crystals. Recrystallization from ethyl acetate-hexane afforded yellow prisms (7.1 g, 59%), m.p. 111°-112° C.

reactant | phosphorous oxychloride | 8.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(2-chloro-4-methylphenyl)pyrrole | 9.7 g | ClC1=C(C=CC(=C1)C)N1C=CC=C1 | C11H10ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4.0 g | CN(C)C=O | C3H7NO
product | 1-(2-Chloro-4-methylphenyl)pyrrole-2-carboaldehyde | ClC1=C(C=CC(=C1)C)N1C(=CC=C1)C=O | C12H10ClNO
